US05206327
A 100 ml, three-necked, round-bottomed flask was sparged with nitrogen and equipped with a 25 ml dropping funnel, a thermometer, a stir bar and a septum. The flask was charged with 13.0 ml (13.0 mmol) BH3.THF adduct and cooled to 0° C. in an ice bath. The dropping funnel was charged with 2.64 ml (26.0 mmol) cyclohexene and 10 ml tetrahydrofuran (THF). The cyclohexene/THF mixture was added dropwise over 35 min. A white solid (dicyclohexylborane) formed. The reaction mixture was stirred for one hour at 0° C. The dropping funnel was then charged with 10.0 g (155.4 mmol) poly(methylvinyl)silazane, [(MeSiHNH)0.8 (MeSiViNH)0.2 ]x, and 10 ml THF and added to the reaction mixture over fifteen minutes. After the polysilazane addition was complete, the reaction mixture was stirred for 45 min at 0° C. and then warmed to room temperature. The white solid disappeared and a clear solution was formed. The THF was removed in vacuo to give an opaque liquid with a viscosity of 402 centipoise (cps). The boron-substituted polysilazane, Polymer I, contained about 1.1 wt % boron bound to the polymer backbone. TGA analysis (10° C./min,25°-950° C.): 47.3 wt %.

reactant | BH3.THF | 13.0 mmol, 13.0 ml | B.C1CCOC1
reactant | cyclohexene | 26.0 mmol, 2.64 ml | C1=CCCCC1 | C6H10
reactant | cyclohexene THF | C1=CCCCC1.O1CCCC1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | dicyclohexylborane | C1(CCCCC1)BC1CCCCC1 | C12H23B
